US08304419B2
Step C: (4-chloro-2-propyl-1H-imidazol-5-yl)methanol
A solution of 4-chloro-5-{[(phenylmethyl)oxy]methyl}-2-propyl-1H-imidazole (1.72 g, 6.5 mmol) and methanesulfonic acid (16 mL, 247 mmol) in chloroform (36 mL) was stirred at RT for 1 h. The reaction mixture was poured into ice (˜70 g) and the solution was neutralized by addition of 5N NaOH until the pH was 10. The solution was extracted with methyl tert-butyl ether (2×60 mL) and then with n-butanol (3×40 mL). The combined n-butanol extracts were concentrated, washed with brine, and dried in vacuo to provide the title compound (0.927 g, 82%) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.09 (br. s., 1H), 5.10 (br. s., 1H), 4.31 (s, 2H), 2.45-2.51 (m, 2H), 1.60 (sex, 2H), 0.87 (t, 3H).

reactant | 4-chloro-5-{[(phenylmethyl)oxy]methyl}-2-propyl-1H-imidazole | 6.5 mmol, 1.72 g | ClC=1N=C(NC1COCC1=CC=CC=C1)CCC | C14H17ClN2O
reactant | methanesulfonic acid | 247 mmol, 16 mL | CS(=O)(=O)O | CH4O3S
reactant | NaOH | 5N | [OH-].[Na+]
solvent | chloroform | 36 mL | C(Cl)(Cl)Cl | CHCl3
product | (4-chloro-2-propyl-1H-imidazol-5-yl)methanol | 0.927 g, 82% | ClC=1N=C(NC1CO)CCC | C7H11ClN2O
